*IRF646 MCE 5/15/98
*275V  14A .2 ohm Power MOSFET pkg:TO-220 2,1,3
.SUBCKT IRF646   10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  94M
RS  40  3  6M
RG  20  2  10.7
CGS  2  3  1.23N
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  886P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=573K THETA=60M ETA=2M VTO=3 KP=11.5)
.MODEL DCGD D (CJO=886P VJ=0.6 M=0.68)
.MODEL DSUB D (IS=58.1N N=1.5 RS=75M BV=275 CJO=1.08N VJ=0.8 M=0.42 TT=300N)
.MODEL DLIM D (IS=100U)
.ENDS 


