**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jun 22, 98
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)

* Node 1 -> S1
* Node 2 -> G1
* Node 3 -> S2
* Node 4 -> G2
* Node 5 -> D2
* Node 7 -> D1
.SUBCKT irf7309 1 2 3 4 5 7
X1 7 2 1 irf7309n
X2 5 4 3 irf7309p
.ENDS irf7309

***** N Channel *****
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
.SUBCKT irf7309n 1 2 3
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS (LEVEL=1 IS=1e-32
+VTO=2.78235 LAMBDA=0.0537094 KP=15.7153
+CGSO=4.7069e-06 CGDO=1.59644e-07)
RS 8 3 0.0309678
D1 3 1 MD
.MODEL MD D (IS=5.06109e-11 RS=0.0665257 N=1.24122 BV=30
+IBV=0.00025 EG=1 XTI=4 TT=0
+CJO=4.58534e-10 VJ=1.14947 M=0.447966 FC=0.5)
RDS 3 1 2.4e+07
RD 9 1 0.0001
RG 2 7 1.51292
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D (IS=1e-32 N=50
+CJO=4.91279e-10 VJ=0.5 M=0.555082 FC=1.00004e-08)
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D (IS=1e-10 N=0.403802 RS=3.00153e-06)
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 9.4339e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D (IS=1e-10 N=0.403802)
.ENDS irf7309n


***** P Channel *****
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
.SUBCKT irf7309p 1 2 3
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM PMOS (LEVEL=1 IS=1e-32
+VTO=-2.12193 LAMBDA=0.0099079 KP=5.94341
+CGSO=3.70824e-06 CGDO=1e-11)
RS 8 3 0.0631137
D1 1 3 MD
.MODEL MD D (IS=2.62826e-09 RS=0.027897 N=1.49961 BV=30
+IBV=0.00025 EG=1 XTI=1 TT=0.0001
+CJO=3.12638e-10 VJ=5 M=0.582147 FC=0.5)
RDS 3 1 1e+06
RD 9 1 0.0001
RG 2 7 9.21208
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D (IS=1e-32 N=50
+CJO=7.22928e-10 VJ=0.5 M=0.546675 FC=1e-08)
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D (IS=1e-10 N=0.4 RS=3.00001e-06)
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 7.22928e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D (IS=1e-10 N=0.4)
.ENDS irf7309p
